US05925667
1-ethyl-2-(2-geranylthiobenzoylaminomethyl)pyrrolidine
In a manner identical to Example 15, 2-geranylthiobenzoic acid (2.03 g) was subjected to a condensation reaction with 2-aminomethyl-1-ethylpyrrolidine (1.0 ml), thereby yielding 1.52 g (54%) of the aimed compound.

reactant | 2-geranylthiobenzoic acid | 2.03 g | C(\C=C(/C)\CCC=C(C)C)C1=C(C(=S)O)C=CC=C1 | C17H22OS
reactant | 2-aminomethyl-1-ethylpyrrolidine | 1.0 ml | NCC1N(CCC1)CC | C7H16N2
product | 1-ethyl-2-(2-geranylthiobenzoylaminomethyl)pyrrolidine | 1.52 g, 54% | C(C)N1C(CCC1)CNC(C1=C(C=CC=C1)C\C=C(/C)\CCC=C(C)C)=S | C24H36N2S
